US04636521
(i) N-[[3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl]methyl]methanesulphonamide
Methanesulphonyl chloride (0.23 ml) was added to an ice cooled, stirred solution of 2-[2-[5-(aminomethyl)-1H-indole-3-yl]ethyl]-1H-isoindole-1,3(2H)-dione, hemisulphate, hydrate (0.84 g) in dry pyridine (25 ml). After 20 h at room temperature, a further portion of methanesulphonyl chloride (0.14 ml) was added. The mixture was stirred for 2 h, water (10 ml) was added and the solution was stirred for a further 1 h. The solution was diluted with hydrochloric acid (2N; 250 ml) containing sodium chloride (30 g) and ice. The product was extracted into ethyl acetate (2×80 ml) and the extract was washed with brine (2×60 ml), dried (Na2SO4) and evaporated in vacuo to leave a yellow foam (0.85 g).

reactant | Methanesulphonyl chloride | 0.23 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[2-[5-(aminomethyl)-1H-indole-3-yl]ethyl]-1H-isoindole-1,3(2H)-dione | NCC=1C=C2C(=CNC2=CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C19H17N3O2
reactant | methanesulphonyl chloride | 0.14 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 10 ml | O | H2O
reactant | sodium chloride | 30 g | [Cl-].[Na+]
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 2N, 250 ml | Cl | ClH
product | N-[[3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl]methyl]methanesulphonamide | 0.85 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CNS(=O)(=O)C | C20H19N3O4S
